US05198014
To a stirred suspension of 9.0 grams (0.020 mole) of 1-[[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]methyl]pyridinium bromide and 3.5 grams (0.023 mole) of N,N-dimethyl-4-nitrosoaniline in 95 mL of ethanol was added a solution of 16 grams (0.12 mole) of potassium carbonate in 59 mL of water. When the addition was complete, the reaction mixture was stirred at ambient temperature for four hours. After this time, the reaction mixture was filtered. The filter cake was washed in succession with water, ethanol, and diethyl ether, yielding 7.6 grams of N-[4-(dimethylamino)phenyl]-a-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]nitrone. The nmr spectrum was consistent with the proposed structure.

reactant | 1-[[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]methyl]pyridinium bromide | 0.020 mole, 9.0 grams | [Br-].C(#N)C=1C=NN(C1C[N+]1=CC=CC=C1)C1=NC=C(C=C1Cl)C(F)(F)F
reactant | N,N-dimethyl-4-nitrosoaniline | 0.023 mole, 3.5 grams | CN(C1=CC=C(C=C1)N=O)C | C8H10N2O
reactant | potassium carbonate | 0.12 mole, 16 grams | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 95 mL | C(C)O | C2H6O
solvent | water | 59 mL | O | H2O
product | N-[4-(dimethylamino)phenyl]-a-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]nitrone | 7.6 grams | CN(C1=CC=C(C=C1)[N+](=CC1=C(C=NN1C1=NC=C(C=C1Cl)C(F)(F)F)C#N)[O-])C | C19H14ClF3N6O
